US05192785
4-Phenoxy-1-butanol
The title compound was prepared by the procedure of Preparation 2 in 91% yield from 4-phenoxy-1-butanoic acid and lithium aluminum hydride.

reactant | 4-phenoxy-1-butanoic acid | O(C1=CC=CC=C1)CCCC(=O)O | C10H12O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-Phenoxy-1-butanol | 91% yield | O(C1=CC=CC=C1)CCCCO | C10H14O2
